US07923450B2
a) 4-Methyl-1-(2-methyl-4-nitro-phenyl)-1H-imidazole
A mixture of 2-chloro-5-nitro-toluene (2.0 g, 12 mmol), of 4-methylimidazole (1.0 g, 12 mmol) and of cesium carbonate (5.7 g, 17.5 mmol) in acetonitrile (20 mL) was refluxed overnight. The reaction mixture was cooled, quenched by addition of water and extracted with ethyl acetate. The solvent was removed under reduced pressure and the crude material was purified by column chromatography on silica gel using ethyl acetate as eluent to yield the title compound (1.27 g, 50%) as a slightly brownish solid. MS ISP (m/e): 218.3 (100) [(M+H)+].

reactant | 2-chloro-5-nitro-toluene | 12 mmol, 2.0 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6ClNO2
reactant | 4-methylimidazole | 12 mmol, 1.0 g | CC=1N=CNC1 | C4H6N2
reactant | cesium carbonate | 17.5 mmol, 5.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 4-Methyl-1-(2-methyl-4-nitro-phenyl)-1H-imidazole | 1.27 g, 50% | CC=1N=CN(C1)C1=C(C=C(C=C1)[N+](=O)[O-])C | C11H11N3O2
